US04937246
A mixture of 1-(3,4,5-trimethoxybenzoyl)piperazine (2.0 g), a Lawesson reagent ([2,4-bis(4-methoxypehnyl)-1,3-dithia-2,4-diphosphethane-2,4-disulfide]) (2.9 g) and benzene (20 ml) is heated under reflux for 30 minutes. After cooling, insolubles are filtered off, and the filtrate is concentrated under reduced pressure. To the residue is added 1N hydrochloric acid (100 ml) and following ethyl acetate (50 ml), and the mixture is shaken. The aqueous layer is separated, and to the aqueous layer is added a 1N aqueous solution of sodium hydroxide to make the system alkaline, followed by extraction with methylene chloride. The organic layer is washed with water and dried, then the solvent is distilled off. The residue is recrystallized from ethyl acetate - hexane to afford 1-(3,4,5-trimethoxythiobenzoyl)piperazine as pale yellow prisms (1.3 g), m.p. 116°-118° C.

reactant | 1-(3,4,5-trimethoxybenzoyl)piperazine | 2.0 g | COC=1C=C(C(=O)N2CCNCC2)C=C(C1OC)OC | C14H20N2O4
reactant | Lawesson reagent | 2.9 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 1-(3,4,5-trimethoxythiobenzoyl)piperazine | 1.3 g | COC=1C=C(C(=S)N2CCNCC2)C=C(C1OC)OC | C14H20N2O3S
